US04843068
15.0 Grams (0.049 mole) of tert-butyl 4-bromomethylbenzoate, 8.2 g (0.05 mole) of N-hydroxyphthalimide and 3.0 (0.054 mole) of potassium hydroxide were added to 200 ml of dimethylformamide, and the resulting mixture was stirred at room temperature for 30 minutes and then an 50° C. for 30 minutes. The reaction solution was cooled with ice water and filtered to obtain crystals. The crystals were dissolved in 50 ml of methylene chloride, and to this solution was slowly added dropwise 3 ml of isopropanol containing 0.5 g (0.05 mole) of hydrazine hydrate at room temperature. After completion of the addition, the reaction solution was heated under reflux for 2 hours. The reaction solution was cooled and filtered, and the filtrate was concentrated to obtain 11.0 g of tert-butyl 4-(aminoxymethyl)benzoate.

reactant | tert-butyl 4-bromomethylbenzoate | 0.049 mole | BrCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H15BrO2
reactant | N-hydroxyphthalimide | 0.05 mole, 8.2 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | potassium hydroxide | [OH-].[K+]
reactant | isopropanol | 0.05 mole, 3 ml, 0.5 g | C(C)(C)O | C3H8O
reactant | hydrazine hydrate | O.NN
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | tert-butyl 4-(aminoxymethyl)benzoate | 11.0 g, Yield 90% | O(N)CC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H17NO3
